US04288443
(v) N-Methyl-N'-[2-[[5-(methylaminomethyl)-4-phenyl 2furanylmethyl]thio]ethyl]-2-nitro-1,1-ethenediamine, hemihydrate
A mixture of 5-[[2-(amino)ethyl]thio]methyl-N-methyl-3-phenyl-2-furanmethanamine (0.45 g) and N-methyl-1-(methylthio)-2-nitroethenamine (0.24 g) was stirred in water (5 ml) for 24 hours. The solvent was removed in vacuo and the residue purified by column chromatography (Silica/methanol) affording the title compound (0.3 g) as an amber glass.

reactant | 5-[[2-(amino)ethyl]thio]methyl-N-methyl-3-phenyl-2-furanmethanamine | 0.45 g | NCCSCC1=CC(=C(O1)CNC)C1=CC=CC=C1 | C15H20N2OS
reactant | N-methyl-1-(methylthio)-2-nitroethenamine | 0.24 g | CNC(=C[N+](=O)[O-])SC | C4H8N2O2S
solvent | water | 5 ml | O | H2O
product | N-Methyl-N'-[2-[[5-(methylaminomethyl)-4-phenyl 2furanylmethyl]thio]ethyl]-2-nitro-1,1-ethenediamine, hemihydrate | 0.3 g | O.CNC(=C[N+](=O)[O-])NCCSCC=1OC(=C(C1)C1=CC=CC=C1)CNC.CNC(=C[N+](=O)[O-])NCCSCC=1OC(=C(C1)C1=CC=CC=C1)CNC | InChI=1S/2C18H24N4O3S.H2O/c2*1-19-11-17-16(14-6-4-3-5-7-14)10-15(25-17)13-26-9-8-21-18(20-2)12-22(23)24;/h2*3-7,10,12,19-21H,8-9,11,13H2,1-2H3;1H2
